US04797495
To a RB flask equipped with magnetic stirring bar, reflux condenser, N2 inlet tube with bubbler was added ethyl phenanthro[1,2-b]furan-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc., 7.9 g, 27.2 mmol), lithium borohydride (Aldrich, 0.65 g, 30 mmol) and dry THF (400 mL). The mixture was stirred at reflux for 6 h and then poured into H2O (1 L). The reaction mixture was acidified with 1N HCl and the resulting white solid and filtered, washed with additional H2O (1500 mL) then dissolved in CH2Cl2 (500 mL), dried (Na2SO4), filtered, concentrated to 200 mL and diluted to 500 mL with hexane. The resulting material was filtered, washed with hexane (100 mL) and placed in a vacuum oven overnight. A total of 6.1 g (90.1%) of phenanthro[1,2-b]furan-2-methanol, mp 125°-126° was obtained (C,H).

reactant | ethyl phenanthro[1,2-b]furan-2-carboxylate | 27.2 mmol, 7.9 g | C=1C2=C(OC1C(=O)OCC)C=1C=CC=3C=CC=CC3C1C=C2 | C19H14O3
reactant | lithium borohydride | 30 mmol, 0.65 g | [BH4-].[Li+]
reactant | THF | 400 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 1 L | O | H2O
product | phenanthro[1,2-b]furan-2-methanol | 6.1 g, 90.1% | C=1C2=C(OC1CO)C=1C=CC=3C=CC=CC3C1C=C2 | C17H12O2
